datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]1([H:20])([H:21])[C:12]([H:22])([H:23])[C:13]([H:24])([H:25])[C:14]2([H:26])[C:15]([H:27])([H:28])[C:16]([H:29])([H:30])[C:17]([H:31])([H:32])[C:18]2([H:33])[C:19]1([H:34])[H:35]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:29])[H:6].[C:11]1([H:20])([H:21])[C:12]([H:22])([H:23])[C:13]([H:24])([H:25])[C:14]2([H:26])[C:15]([H:27])([H:28])[C:16]([H:30])[C:17]([H:31])([H:32])[C:18]2([H:33])[C:19]1([H:34])[H:35],82.8432
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11].[S:20]=[C:21]([C:22]([S:23][H:27])([H:25])[H:26])[H:24]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:25])([H:9])([H:10])[H:11].[S:20]=[C:21]([C:22]([S:23][H:27])[H:26])[H:24],-2.9288
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22](=[C:23]([H:25])[H:26])[H:24]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[C:22](=[C:23]([H:25])[H:26])[H:24])[H:13])([H:10])([H:11])[H:12],23.3886
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][C:15]([H:16])([H:17])[H:18],16.744368
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])[H:10],59.9567
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:18]([C:17](=[C:16]([H:22])[H:23])[H:24])([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:9])[H:8])([H:6])[H:7],65.2286
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8]([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][C:8]([H:9])([H:10])[H:11],24.731624
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])[H:6],34.4762
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11][O:12][H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:11][O:12][H:13],73.9982
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:8])[H:9])([H:5])([H:6])[H:7],163.176
[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[C:6]([S:7][H:11])([H:8])([H:9])[H:10]>>[C:0](=[C:1]([S:2][H:11])[H:5])([H:3])[H:4].[C:6]([S:7])([H:8])([H:9])[H:10],35.7732
[O:0][H:1].[S:2][H:3]>>[O:0]([H:1])[H:3].[S:2],0.0
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6]=[C:7]([C:8]([S:9][H:12])[H:11])[H:10]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:8]([C:7](=[S:6])[H:10])([S:9][H:12])[H:11],107.11
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23]([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])[C:23]([C:22]([H:30])([H:31])[H:32])([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])([H:10])([H:11])[H:12],41.6308
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25])[H:7],-13.598
